US04159986
Using the procedure of Example 1, 7.1 gm of thiophene-2-acetic acid and 10.40 gm of m-trifluoromethyl-benzoyl chloride were reacted to obtain 5(m-trifluoromethyl-benzoyl)-thiophene-2-acetic acid melting at 120° C.

reactant | thiophene-2-acetic acid | 7.1 gm | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | m-trifluoromethyl-benzoyl chloride | 10.40 gm | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
product | 5(m-trifluoromethyl-benzoyl)-thiophene-2-acetic acid | FC(C=1C=C(C(=O)C2=CC=C(S2)CC(=O)O)C=CC1)(F)F | C14H9F3O3S
